US05055584
2-(2-Pinanylthio)-5-(1,2-dibutoxycarbonylethylthio)-1,3,4-thiadiazole
2,5-Dimercapto-1,3,4-thiadiazole (35.0 g, 0.23 mol) was charged into a reaction flask along with alpha-pinene (33.85 g, 0.24 mol). The reaction was heated to 100° C. for 1 hour and then cautiously heated to 120° C. The reaction exothermed and was maintained at 155° C. for 20 min. Dibutyl maleate (53.5 g, 0.55 mol) was added and the reaction was maintained at 155° C. for 3 hours. The reaction product was then cooled, charged with sodium carbonate (about 1 g) and stirred. The product was filtered using a filter aid.

reactant | 2,5-Dimercapto-1,3,4-thiadiazole | 0.23 mol, 35.0 g | SC=1SC(=NN1)S | C2H2N2S3
reactant | alpha-pinene | 0.24 mol, 33.85 g | CC1=CCC2CC1C2(C)C | C10H16
reactant | Dibutyl maleate | 0.55 mol, 53.5 g | C(\C=C/C(=O)OCCCC)(=O)OCCCC | C12H20O4
reactant | sodium carbonate | about 1 g | C([O-])([O-])=O.[Na+].[Na+]
product | 2-(2-Pinanylthio)-5-(1,2-dibutoxycarbonylethylthio)-1,3,4-thiadiazole | C12C(CCC(C1(C)C)C2)(C)SC=2SC(=NN2)SC(CC(=O)OCCCC)C(=O)OCCCC | C24H38N2O4S3
